US08629160B2
A mixture of 2-(benzo[b]thiophen-3-yl)-2-(benzylamino)acetic acid (I37) (303 mg, 1.02 mmol), (R)-quinuclidin-3-ol (156 mg, 1.22 mmol), DCC (252 mg, 1.22 mmol), and HOBT (187 mg, 1.22 mmol) in dry THF (20 ml) was stirred at room temperature overnight. The solvent was evaporated, and the crude product was partitioned between EtOAc and 2M K2CO3. The organic phase was washed with 2M K2CO3 and brine, dried over Na2SO4, filtered and evaporated to dryness. The crude product was purified by flash chromatography (CH3CN/MeOH=8/2+0.2% NH4OH) to obtain (R)-quinuclidin-3-yl 2-(benzo[b]thiophen-3-yl)-2-(benzylamino)acetate (53 mg, 12.8% yield).

reactant | 2-(benzo[b]thiophen-3-yl)-2-(benzylamino)acetic acid | 1.02 mmol, 303 mg | S1C2=C(C(=C1)C(C(=O)O)NCC1=CC=CC=C1)C=CC=C2 | C17H15NO2S
reactant | (R)-quinuclidin-3-ol | 1.22 mmol, 156 mg | N12C[C@@H](C(CC1)CC2)O | C7H13NO
reactant | DCC | 1.22 mmol, 252 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | HOBT | 1.22 mmol, 187 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | (R)-quinuclidin-3-yl 2-(benzo[b]thiophen-3-yl)-2-(benzylamino)acetate | 53 mg, 12.8% yield | S1C2=C(C(=C1)C(C(=O)O[C@H]1CN3CCC1CC3)NCC3=CC=CC=C3)C=CC=C2 | C24H26N2O2S
